*SPICE model for MSA0900  
*Start bond wires
.SUBCKT MSA0900 70      20      40
LLB     20      35      .5NH
LLE     40      55      .2NH
*end bond wires
*CALL DIE MODEL
XDIE    70      35      55      MSA09
.ENDS
*end bond wires
* Start die model
.SUBCKT MSA09   DIEOUT  DIEIN   DIEGND
RF      DIEIN   13      150    
RE      Q2E     DIEGND  12    
RB      DIEIN   DIEGND  2000  
RBIAS   Q1E     DIEGND  115   
RDC     DIEIN   DIEOUT  6000  
CF      DIEIN   DIEOUT  0.114PF
CFB     13      DIEOUT  0.058PF
CP1     Q1E     DIEOUT  0.020PF
CP2     Q2E     DIEOUT  0.023PF
CP3     DIEGND  DIEOUT  0.168PF
CFBL    14      DIEOUT  45PF    ; off-chip component
LF      13      14      0.35NH  ; off-chip component
XA09Q1  DIEOUT  DIEIN   Q1E     A09Q1
XA09Q2  DIEOUT  Q1E     Q2E     A09Q2
.ENDS
* Q1 distributed base model
.SUBCKT A09Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     2.6   
RB2     11      12     9.1   
RB3     12      B1     7.9   
RE      E1      Q1E    0.63  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    156
DCD1    Q1B     C1     DMOD    377
DCD2    11      C1     DMOD    138
DCD3    12      C1     DMOD    156
.ENDS
* Q2 distributed base model
.SUBCKT A09Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     1.0   
RB2     21      22     3.3   
RB3     22      B2     2.8   
RE      E2      Q2E    0.22  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    438
DCD1    Q2B     C2     DMOD    782
DCD2    21      C2     DMOD    609
DCD3    22      C2     DMOD    385
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)